US05866592
β-Phenethyl-α,α-dimethyl-β-alanine hydrochloride (600 mg, 2.33 mmol) was dissolved in DMF (100 ml). To the resulting solution, triethylamine (Et3N) (0.98 ml, 6.99 mmol) and 4-cyanobenzoyl-OSu (630 mg, 2.56 mmol) were added under cooling with ice and the mixture was stirred at room temperature overnight. After the solvent was distilled off, the residue was dissolved in a 2N aqueous solution of sodium carbonate and washed with hexane. The aqueous layer was adjusted to pH 3 with citric acid and extracted with ethyl acetate. The collected ethyl acetate layer was washed with a saturated aqueous solution of NaCl and dried over anhydrous sodium sulfate. After the solvent was distilled off, the obtained crude N-4-cyanobenzoyl-β-phenethyl-α,α-dimethyl-β-alanine (200 mg, 0.57 mmol) was derivatized to N-4-cyanobenzoyl-β-phenethyl-α,α-dimethyl-β-alanyl-4-piperidineacetic acid benzyl ester (212 mg, 65.8%) by the same procedure as in Example 2-(6-2).

reactant | β-Phenethyl-α,α-dimethyl-β-alanine hydrochloride | 2.33 mmol, 600 mg | Cl.C(CC1=CC=CC=C1)C(N)C(C(=O)O)(C)C
reactant | triethylamine | 6.99 mmol, 0.98 ml | C(C)N(CC)CC | C6H15N
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
product | N-4-cyanobenzoyl-β-phenethyl-α,α-dimethyl-β-alanine | 0.57 mmol, 200 mg | C(#N)C1=CC=C(C(=O)NC(C(C(=O)O)(C)C)CCC2=CC=CC=C2)C=C1 | C21H22N2O3
